US08455488B2
Synthesis of tert-butyl (S)-10-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)carbamoyl)-4,8-dioxo-6-oxa-3,5,9-triazatetradecan-14-ylcarbamate (Compound II-90)
According to the procedure described in the synthesis method of Compound II-15, 2-(3-ethylureidooxy)acetic acid (Compound VI-13) 47 mg (0.29 mmol) was coupled with tert-butyl (S)-5-amino-6-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-6-oxohexylcarbamate (Compound IV-13) 100 mg (0.19 mmol) to obtain the title compound.

reactant | 2-(3-ethylureidooxy)acetic acid | 0.29 mmol, 47 mg | C(C)NC(NOCC(=O)O)=O | C5H10N2O4
reactant | tert-butyl (S)-5-amino-6-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)amino)-6-oxohexylcarbamate | 0.19 mmol, 100 mg | N[C@@H](CCCCNC(OC(C)(C)C)=O)C(=O)N(CC1=CC=CC2=CC=CC=C12)[C@H](C(OCC)OCC)C | C29H45N3O5
product | tert-butyl (S)-10-(((S)-1,1-diethoxypropan-2-yl)(naphthalen-1-ylmethyl)carbamoyl)-4,8-dioxo-6-oxa-3,5,9-triazatetradecan-14-ylcarbamate | C(C)OC([C@H](C)N(C(=O)[C@@H](NC(CONC(NCC)=O)=O)CCCCNC(OC(C)(C)C)=O)CC1=CC=CC2=CC=CC=C12)OCC | C34H53N5O8
